US07713969B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(4-chlorophenyl)pyrrolidine-2,5-dione was prepared according to Example 40 replacing 2-chloro-4-fluorophenylacetamide with 4-chlorophenylacetamide. Yield 32.7 mg, 9.0%. 1H NMR (DMSO-d6) 400 MHz δ: 11.54 (s, 1H), 7.40 (m, 4H), 7.33 (s, 1H), 7.15 (dd, 1H, J=6.80.8 Hz), 6.86 (m, 2H), 4.54 (d, 1H, J=8.0 Hz), 7.38 (d, 1H, J=7.6 Hz), 4.10 (t, 2H, J=5.6 Hz), 2.90 (t, 2H, J=6.0 Hz), 2.11 (m, 2H).

reactant | 2-chloro-4-fluorophenylacetamide | ClC1=C(C=CC(=C1)F)CC(=O)N | C8H7ClFNO
reactant | 4-chlorophenylacetamide | ClC1=CC=C(C=C1)CC(=O)N | C8H8ClNO
product | (±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(4-chlorophenyl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CC=C(C=C2)Cl)=O)=O | C21H17ClN2O2
